US05686445
10,11-Dihydrodibenz[b,f][1,4]thiazepine
To a mixture of 3.3 g of 10,11-dihydro-11-oxodibenz[b,f][1,4]thiazepine in 25 ml of tetrahydrofuran is added 4.0 ml of 10 molar borane-dimethylsulfide in tetrahydrofuran. The mixture is stirred at room temperature for 18 hours, 50 ml of anhydrous methanol added and the solvent removed. An additional 3 ml of methanol is added and the solvent removed to give white crystals. A sample is purified by chromatography on silica gel with hexane-chloroform-ethyl acetate (2:1:1) as solvent to give white crystals, m.p. 145°-148° C.

reactant | 10,11-dihydro-11-oxodibenz[b,f][1,4]thiazepine | 3.3 g | O=C1NC2=C(SC3=C1C=CC=C3)C=CC=C2 | C13H9NOS
reactant | borane dimethylsulfide | 10 molar, 4.0 ml | B.CSC
reactant | methanol | 50 ml | CO | CH4O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 10,11-Dihydrodibenz[b,f][1,4]thiazepine | C1=CC=CC2=C1CNC1=C(S2)C=CC=C1 | C13H11NS
